US08378046B2
Synthesis of 8-(biphenyl-2-yloxy)-octan-1-ol
The compound was prepared using essentially the procedure of Preparatory Example 1 with 2-hydroxy biphenyl (40 g.), water (250 g.), sodium iodide (3.5 g.) and sodium hydroxide (37.6 g. of 50% in water). This mixture was heated to 100° C. with agitation and 8-chloro-1-octanol (77.4 g.) was added. The product was recovered essentially as in Preparatory Example 1.

reactant | 2-hydroxy biphenyl | 40 g | OC1=C(C=CC=C1)C1=CC=CC=C1 | C12H10O
reactant | sodium iodide | 3.5 g | [I-].[Na+]
reactant | sodium hydroxide | 37.6 g | [OH-].[Na+]
reactant | 8-chloro-1-octanol | 77.4 g | ClCCCCCCCCO | C8H17ClO
solvent | water | 250 g | O | H2O
product | 8-(biphenyl-2-yloxy)-octan-1-ol | C1(=C(C=CC=C1)OCCCCCCCCO)C1=CC=CC=C1 | C20H26O2
